US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[2-(4-Dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXXXVI)
In a similar fashion to Compound LXXVI, (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.0 mg, 0.193 mmol) and 4-(dimethylamino)benzaldehyde (31.6 mg, 0.212 mmol) were reacted to produce 25 mg (33%) of the title compound. mp: 245-251° C., 1H NMR (300 MHz, DMSO-d6): 12.73 (s, 1H), 7.96 (d, J=8 Hz, 2H), 7.84 (d, J=4 Hz, 1H), 7.65 (s, 1H), 7.15 (s, 1H), 6.81 (d, J=8 Hz, 2H), 6.70 (d, J=8 Hz, 1H), 6.37 (d, J=8 Hz, 1H), 6.32 (s, 2H), 3.89 (br s, 1H), 2.99 (s, 6H), 2.87 (s, 1H), 2.75 (s, 1H), 2.60 (d, J=7 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.42 (d, J=8 Hz, 1H). MS: 389 (M+H), HPLC: 1.97 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.193 mmol, 50.0 mg | NC1=NC=CC(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C13H17N5O
reactant | 4-(dimethylamino)benzaldehyde | 0.212 mmol, 31.6 mg | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
product | (1S,2S,3R,4R)-3-[2-(4-Dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 25 mg, 33% | CN(C1=CC=C(C=C1)C1=NC=2C(=NC=CC2N[C@H]2[C@H]([C@@H]3C=C[C@H]2C3)C(=O)N)N1)C | C22H24N6O
